US05302720
A mixture of 2-amino-3-methylbiphenyl hydrochloride (2.65 g), N,N-dimethylcyanamide (1.3 g) and m-cresol (20 ml) was heated at 90°-95° C. for 18 hours to give N,N-dimethyl-N'-(3-methyl-2-biphenylyl)guanidine as a colourless solid (m.p. 144°-145° C.) which was recrystallised from hexane.

reactant | 2-amino-3-methylbiphenyl hydrochloride | 2.65 g | Cl.NC1=C(C=CC=C1C)C1=CC=CC=C1
reactant | N,N-dimethylcyanamide | 1.3 g | CN(C#N)C | C3H6N2
solvent | m-cresol | 20 ml | C1=C(C=CC=C1O)C | C7H8O
product | N,N-dimethyl-N'-(3-methyl-2-biphenylyl)guanidine | CN(C(=N)NC1=C(C=CC=C1C)C1=CC=CC=C1)C | C16H19N3
